US06099592
d) Preparation of 4,5-diamino-1-methyl-3-tert-butylpyrazole dihydrochloride
A suspension of 8.5 g (0.035 mol) of 5-amino-1-methyl-4-nitro-3-tert-butylpyrazole and 1.5 g of 5% by weight palladium-on-charcoal containing 50% water in 200 cm3 of ethanol was placed in a hydrogenator. After stirring for 3 hours under a hydrogen pressure of 10 bar, at a temperature of 75° C., the reaction medium was poured into a solution, precooled to 0° C., of 60 cm3 of ethanol and 20 cm3 of 12N hydrochloric acid. The solution was clarified by filtration on a sinter funnel and then evaporated to dryness under reduced pressure. The brown solid obtained was taken up, at reflux, in 35 cm3 of 5N hydrochloric ethanol and 11 cm3 of water and then cooled to room temperature. The white crystals obtained were filtered off on a sinter funnel and then dried under vacuum at room temperature. 4.9 g of the expected product were obtained in the form of white crystals, the melting point of which was 260° C. The elemental analysis for C8H10N4.2HCl was:

reactant | 5-amino-1-methyl-4-nitro-3-tert-butylpyrazole | 0.035 mol, 8.5 g | NC1=C(C(=NN1C)C(C)(C)C)[N+](=O)[O-] | C8H14N4O2
reactant | hydrochloric acid | 12N, 20 cm3 | Cl | ClH
reactant | water | 11 cm3 | O | H2O
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | ethanol | 5N, 35 cm3 | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | 60 cm3 | C(C)O | C2H6O
product | 4,5-diamino-1-methyl-3-tert-butylpyrazole dihydrochloride | 4.9 g | Cl.Cl.NC=1C(=NN(C1N)C)C(C)(C)C | InChI=1S/C8H16N4.2ClH/c1-8(2,3)6-5(9)7(10)12(4)11-6;;/h9-10H2,1-4H3;2*1H
